US05925632
(b) rac-3-Bromo-1-isobutyl-pyrrolidine-2-one
4.48 g (14.9 mmol) rac-2,4-Dibromo-N-isobutyl-butyramide were dissolved in 40 ml dichloromethane, then 17.3 ml of 50% sodium hydroxide solution and 0.48 g Dowex 2×10 were added. The mixture was stirred vigorously for 4 h at room temperature. Afterwards the mixture was poured into 50 ml ice/water an the phases were separated. The aqueous phase was extracted thrice with 20 ml dichloromethane, and the combined organic phases were washed once with 20 ml water, once with 20 ml brine and dried over magnesium sulfate. After evaporation of the solvent, the resulting colourless oil was chromatographed or silica gel (0.040-0.063 mm) with ethyl acetate/n-hexane 1:1 as eluent.

reactant | rac-2,4-Dibromo-N-isobutyl-butyramide | 14.9 mmol, 4.48 g | BrC(C(=O)NCC(C)C)CCBr | C8H15Br2NO
reactant | sodium hydroxide | 17.3 ml | [OH-].[Na+]
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | rac-3-Bromo-1-isobutyl-pyrrolidine-2-one | BrC1C(N(CC1)CC(C)C)=O | C8H14BrNO
